US08119673B2
To a solution of tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}isoxazolidine-2-carboxylate (357 mg, 0.873 mmol) in MeOH (5 mL) was added conc. HCl (aq., 5 mL) and the mixture was stirred at rt for 1 h and then evaporated to dryness to give crude (3S)—N-[5-chloro-2-(1H-tetrazol-1-yl)benzyl]isoxazolidine-3-carboxamide hydrochloride as a solid which was used as such in the next reaction without further purification.

reactant | tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}isoxazolidine-2-carboxylate | 0.873 mmol, 357 mg | ClC=1C=CC(=C(CNC(=O)[C@H]2N(OCC2)C(=O)OC(C)(C)C)C1)N1N=NN=C1 | C17H21ClN6O4
reactant | HCl | 5 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (3S)—N-[5-chloro-2-(1H-tetrazol-1-yl)benzyl]isoxazolidine-3-carboxamide hydrochloride | Cl.ClC=1C=CC(=C(CNC(=O)[C@H]2NOCC2)C1)N1N=NN=C1 | InChI=1S/C12H13ClN6O2.ClH/c13-9-1-2-11(19-7-15-17-18-19)8(5-9)6-14-12(20)10-3-4-21-16-10;/h1-2,5,7,10,16H,3-4,6H2,(H,14,20);1H/t10-;/m0./s1
